US04237055
The β-ketoester derived from 8-benzyloxy-3,7-dimethyl-2-octenyl chloride (25.2 g, 67.5 mM) is treated with 2 N sodium hydroxide/methanol (675 ml) and after 10 minutes water (675 ml) is added. The reaction mixture is heated at reflux for 3 hours. The solvent is removed in vacuo and the residue obtained is treated with ether and brine. The layers are separated, the aqueous phase is extracted with ether, and the combined extracts are washed with brine and dried (Na2SO4). The solvent is removed in vacuo to give the crude product (16 g). Purification over silica gel using 5% ethyl acetate/hexane as the eluent gives 1-benzyloxy-2,6-dimethyl-10-oxo-undec-6-ene (12.4 g, 61%) with a 83/17 E/Z isomer ratio by gas chromatography:

reactant | 8-benzyloxy-3,7-dimethyl-2-octenyl chloride | 67.5 mM, 25.2 g | C(C1=CC=CC=C1)OCC(CCCC(=CCCl)C)C | C17H25ClO
reactant | sodium hydroxide methanol | 2 N, 675 ml | [OH-].[Na+].CO
reactant | water | 675 ml | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
product | 1-benzyloxy-2,6-dimethyl-10-oxo-undec-6-ene | 12.4 g, 61% | C(C1=CC=CC=C1)OCC(CCCC(=CCCC(C)=O)C)C | C20H30O2
